US09193725B2
The 5-allyl-4,6-dichloropyrimidine (2 g) and 2-(tributylstannyl) pyridine (6.1 g) were dissolved in dry DMF (1.0 mL). The reaction mixture was degassed with nitrogen for 30 minute and Pd(PPh3)4 (615 mg) was added. The reaction mixture was again degassed with nitrogen for 20 minutes before being irradiated under microwave at 160° C. for 30 minutes. The reaction mixture was cooled to room temperature, filtered through a celite pad and washed with ethyl acetate (2×50 mL). The combined filtrate was washed with water (30 mL) and brine (30 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated. The resulting residue was purified by column chromatography using EtOAc/hexane (0.4:9.6) as eluent to afford 5-allyl-4-chloro-6-(pyridin-2-yl)pyrimidine (1 g) as off white solid. 1H NMR (DMSO-d6): δ 3.80-3.82 (d, 2H), 4.83-4.89 (dd, 1H), 4.90-5.00 (dd, 1H), 5.82-5.88 (m, 1H), 7.53-7.57 (m, 1H), 7.90-8.04 (m, 2H), 8.69-8.71 (d, 1H), 9.0 (s, 1H).

reactant | 5-allyl-4,6-dichloropyrimidine | 2 g | C(C=C)C=1C(=NC=NC1Cl)Cl | C7H6Cl2N2
reactant | 2-(tributylstannyl) pyridine | 6.1 g | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 5-allyl-4-chloro-6-(pyridin-2-yl)pyrimidine | 1 g | C(C=C)C=1C(=NC=NC1C1=NC=CC=C1)Cl | C12H10ClN3
